US08119666B2
2-(3-Benzyloxy-4-nitrophenyl)-malonic acid tert-butyl ester ethyl ester (5.00 g, 12.0 mmol) is suspended in formic acid (60 mL) and stirred at RT for 18 h. The solvent is removed under reduced pressure and the residue taken up in EtOAc (100 mL). The organic solution is extracted with saturated NaHCO3 (2×50 mL) and brine (30 mL), before being dried over Na2SO4 and concentrated to an oil. Purification by flash column (10-15% EtOAc/hexanes) affords (3-benzyloxy-4-nitrophenyl)-acetic acid ethyl ester as a yellow oil: MS (M+H)+=316.

reactant | 2-(3-Benzyloxy-4-nitrophenyl)-malonic acid tert-butyl ester ethyl ester | 12.0 mmol, 5.00 g | C(C)OC(C(C(=O)OC(C)(C)C)C1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C22H25NO7
solvent | formic acid | 60 mL | C(=O)O | CH2O2
product | (3-benzyloxy-4-nitrophenyl)-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)[N+](=O)[O-])OCC1=CC=CC=C1)=O | C17H17NO5
